US06716863B2
4-chloromethyl-2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazole
Using (E)-3-(2,4-difluorophenyl)-2-propenamide (9.16 g) and 1,3-dichloroacetone (7.62 g), the same reaction as Reference Example 1-(ii) was carried out to yield the titled compound (6.31 g) as colorless crystals.

reactant | (E)-3-(2,4-difluorophenyl)-2-propenamide | 9.16 g | FC1=C(C=CC(=C1)F)/C=C/C(=O)N | C9H7F2NO
reactant | 1,3-dichloroacetone | 7.62 g | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazole | 6.31 g | ClCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)F)F | C12H8ClF2NO
